US04492794
A suspension of guanylthiourea (2.36 g) and ethyl 3-bromopyruvate (4.8 g) in dry ethanol (50 ml) is refluxed under stirring for 2.5 hours. The reaction mixture is concentrated in vacuum to dryness, and the residue is dissolved in water (about 100 ml). The aqueous solution is washed with ethyl acetate and made alkaline with 5% sodium hydrogencarbonate solution. The precipitated crystals are filtered, washed with water and dried to give 2-guanidino-4-ethoxycarbonylthiazole (3.6 g) as crystals. The yield is 84%.

reactant | guanylthiourea | 2.36 g | C(N)(=N)NC(=S)N | C2H6N4S
reactant | ethyl 3-bromopyruvate | 4.8 g | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-guanidino-4-ethoxycarbonylthiazole | 3.6 g, yield is 84% | N(C(=N)N)C=1SC=C(N1)C(=O)OCC | C7H10N4O2S
